
*#######################################################################
*
* Copyright 2025 IHP PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*    https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
*#######################################################################
* Technology: SG13G2
* Lot: PQ45802
* Wafer: 05
* Reticle: T458
* Block: S427Ka
* Chip : X7Y02
* DUT: dschottky_nbl1
* Temperature range: -40C ... +125C
* Operator: FKo
* DC Measurements  at T=27C, T=70C, T=-40C and T=125C
* Noise Measurements at T=27C
* Measurement Date: Jun 21 Mon 11:12:05 2021
*


.subckt schottky_nbl1 A C S
.param
+l=1E-06
+w=3E-07
+Nx=1
+Ny=1
+scaling=1E-06
+ls=((Nx*(l+2e-6))/scaling)+0.5
+ws=((Ny*(w+1.7e-6))/scaling)+0.5

dmain 1  C   dmain_mod area = ((Nx*Ny)*(l*w))/(scaling*scaling)
drev  C  1   drev_mod area = ((Nx*Ny)*(l*w))/(scaling*scaling)
dsub  S  C   dsub_mod area = (ls*ws)
Q1    A  C S mod1_pnp area= ((Nx*Ny)*(l*w))/(scaling*scaling)

rsmain A  1   R=(1360)/(Nx*Ny) tc1=2.975e-3 tc2=4.630e-6
cstray A  C   C=(2.185E-014/25)*(Nx*Ny)
cin    A  S   C=(5E-016/5)*(Nx)
cdsub  C  2   C=(1.7E-014/168)*(ls*ws)
csub   2  S   C=6E-016
rsub   2  S   R=1E+004

.ends schottky_nbl1

.model mod1_pnp pnp (
+ tnom=27
+ is=2E-18
+ nf =0.93304
+ nr=0.848
+ ikf=0.0128824955169313
+ bf=0.287719968668579
+ rc=420000
+ rb=408
+ kf ='6.704272E-08*schottky_nbl1_kf'
+ af =0.53
+ eg=0.95)

.model dmain_mod d (
+ tnom =27
+ level =1
+ is ='3.829E-10*schottky_nbl1_is'
+ n =1.057
+ ikf =0.07311
+ cj =8E-16
+ cjsw =0
+ m =0.569
+ vj =0.4
+ eg =0.450
+ xti =4.633
+ kf ='3.16227766016838E-12*schottky_nbl1_kf'
+ af =1.205 )

.model drev_mod d (
+ tnom =27
+ level =1
+ is =2.707E-10
+ n =16.9
+ ikf =1.66E-05
+ eg =6.5
+ xti =4
+ kf ='3.43962955648912E-09*schottky_nbl1_kf'
+ af =1.75 )

.model dsub_mod d (
+ tnom=27
+ is =1.141E-16
+ rs =19700
+ n =1
+ ikf =5E-07
+ cj =1.5E-16
+ cjsw =0
+ m =0.6
+ vj =0.5
+ eg =1.17
+ xti =3
+ bv =23
+ tcv =-0.00079
+ ibv =1E-15
+ nbv =1 )
